US05204464
(a) 3-Cyano-2-morpholino-5-(pyrid-4-yl)-pyridine hydrochloride monohydrate
5.0 kg 3-cyano-2-morpholino-5-(pyrid-4-yl)-pyridine is mixed with 25 l water and 2.0 l technical grade hydrochloric acid and is then heated to about 50° C. 30 l hydrochloric acid is added to the yellow solution, which is then cooled. After crystallization, stirring is continued for a further 2 hours at temperatures below 20° C. The crystalline material is centrifuged off and washed with a mixture of 5.4 l water and 0.6 l hydrochloric acid. The yield is 5.3 kg (88% of the theoretical yield).

reactant | 3-cyano-2-morpholino-5-(pyrid-4-yl)-pyridine | 5.0 kg | C(#N)C=1C(=NC=C(C1)C1=CC=NC=C1)N1CCOCC1 | C15H14N4O
reactant | hydrochloric acid | Cl | ClH
reactant | hydrochloric acid | 30 l | Cl | ClH
solvent | water | 25 l | O | H2O
product | 3-Cyano-2-morpholino-5-(pyrid-4-yl)-pyridine hydrochloride monohydrate | O.Cl.C(#N)C=1C(=NC=C(C1)C1=CC=NC=C1)N1CCOCC1 | InChI=1S/C15H14N4O.ClH.H2O/c16-10-13-9-14(12-1-3-17-4-2-12)11-18-15(13)19-5-7-20-8-6-19;;/h1-4,9,11H,5-8H2;1H;1H2
